US04056540
A. cis-4-Phenyl-N-(3-dimethylaminopropyl)-1,3-benzodioxan-2-carboxamide hydrochloride (BL-4981A)
cis-6-Chloro-4-phenyl-N-(3-dimethylaminopropyl)-1,3-benzodioxan-2-carboxamide hydrochloride (1.06 g, 2.59 mmole), triethylamine (0.526 g., 5.2 mmole) and 30% Pd on Celite (0.6 g) were mixed in abs EtOH (200 ml) and hydrogenated in a Parr apparatus for 21/2 hrs. (14 lb H2 uptake). Workup and treatment with HClg in the usual manner (see example 12) gave the product (0.7 g., 71.8% mp 178°-186° d) after recrystallization from i-PrOH:Et2O.

reactant | cis-6-Chloro-4-phenyl-N-(3-dimethylaminopropyl)-1,3-benzodioxan-2-carboxamide hydrochloride | 2.59 mmole, 1.06 g | Cl.ClC1=CC2=C(O[C@@H](O[C@@H]2C2=CC=CC=C2)C(=O)NCCCN(C)C)C=C1
reactant | triethylamine | 5.2 mmole, 0.526 g | C(C)N(CC)CC | C6H15N
solvent | EtOH | 200 ml | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | cis-4-Phenyl-N-(3-dimethylaminopropyl)-1,3-benzodioxan-2-carboxamide hydrochloride | Cl.C1(=CC=CC=C1)[C@H]1O[C@H](OC2=C1C=CC=C2)C(=O)NCCCN(C)C | InChI=1S/C20H24N2O3.ClH/c1-22(2)14-8-13-21-19(23)20-24-17-12-7-6-11-16(17)18(25-20)15-9-4-3-5-10-15;/h3-7,9-12,18,20H,8,13-14H2,1-2H3,(H,21,23);1H/t18-,20+;/m1./s1
